US09388185B2
Step 3. 2-[2-(3,5-dimethoxyphenyl)ethyl]-6-[1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl]-5H-pyrrolo[2,3-b]pyrazine
A stirred mixture of 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (15.0 mg, 29.8 μmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complexed with dichloromethane (1:1) (1.30 mg, 1.59 μmol), 1-(tetrahydro-2H-pyran-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (8.9 mg, 32.0 μmol), and potassium phosphate (13.5 mg, 63.6 μmol) in water (0.2 mL)/1,4-dioxane (0.40 mL) was heated at 88° C. After 1 hour, the volatiles were removed under vacuum and the residues were dissolved in methanol (1 mL). Potassium carbonate (8.8 mg, 63.7 μmol) was added and the reaction mixture was then warmed up to 60° C. After 1 hour, the reaction mixture was cooled to ambient temperature and was purified on RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.05% TFA, at flow rate of 30 mL/min) to give the desired product (2.5 mg) as its TFA salt. LCMS calculated for C24H28N5O3 (M+H)+: m/z=434.2. Found: 434.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 29.8 μmol, 15.0 mg | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1S(=O)(=O)C1=CC=CC=C1 | C22H20BrN3O4S
reactant | dichloromethane | 1.59 μmol, 1.30 mg | ClCCl | CH2Cl2
reactant | 1-(tetrahydro-2H-pyran-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 32.0 μmol, 8.9 mg | O1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | potassium phosphate | 63.6 μmol, 13.5 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Potassium carbonate | 63.7 μmol, 8.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 0.2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 0.40 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(3,5-dimethoxyphenyl)ethyl]-6-[1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl]-5H-pyrrolo[2,3-b]pyrazine | 2.5 mg | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)NC(=C2)C=2C=NN(C2)C2CCOCC2 | C24H27N5O3
